US08106090B2
[(1R,2S)-1-Benzyl-2-hydroxy-3-[1,2,3]triazol-2-yl-propyl]-carbamic acid tert-butyl ester
Using general procedure 4 and purification method E with [(1R)-1-{(2R)-oxiran-2-yl}-2-phenyl-ethyl]carbamic acid tert-butylester (0.15 g, 0.57 mmol) and 1,2,3-triazole (0.037 mL, 0.63 mmol) gives the title compound.

reactant | [(1R)-1-{(2R)-oxiran-2-yl}-2-phenyl-ethyl]carbamic acid tert-butylester | 0.57 mmol, 0.15 g | C(C)(C)(C)OC(N[C@H](CC1=CC=CC=C1)[C@H]1OC1)=O | C15H21NO3
reactant | 1,2,3-triazole | 0.63 mmol, 0.037 mL | N1N=NC=C1 | C2H3N3
product | [(1R,2S)-1-Benzyl-2-hydroxy-3-[1,2,3]triazol-2-yl-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]([C@H](CN1N=CC=N1)O)CC1=CC=CC=C1)=O | C17H24N4O3
